US05574055
177.1 mg (0.61 mmol) of (RS)-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-piperidine were dissolved in 20 ml of methylene chloride and treated with 68.5 mg (0.67 mmol) of acetic anhydride in the presence of 53.1 mg (0.67 mmol) of pyridine. After stirring at room temperature for 18 hours the mixture was washed with water and the organic phase was dried over sodium sulfate. After filtration and evaporation of the filtrate the product was dried in a high vacuum. 197.3 mg of (RS)-1-acetyl-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-piperidine were obtained as a yellowish oil. 1H-NMR (CDCl3) ppm: 7.49 (d,2H), 7.20 (d,2H), 4.80 (m,2H), 4.05 (t, 1H), 3.92 (m,2H), 3.64 (d,2H), 3.43 (s,3H), 3.21 (m,1H), 2.68 (m,2H), 2.14 (s,3H), 1.85 (m,2H), 1.60 (m,2H).

reactant | (RS)-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-piperidine | 0.61 mmol, 177.1 mg | COCC1CN(C(O1)=O)C1=CC=C(C=C1)C1CCNCC1 | C16H22N2O3
reactant | acetic anhydride | 0.67 mmol, 68.5 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.67 mmol, 53.1 mg | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (RS)-1-acetyl-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-piperidine | 197.3 mg | C(C)(=O)N1CCC(CC1)C1=CC=C(C=C1)N1C(OC(C1)COC)=O | C18H24N2O4
